US04730003
2-(1,1-Dimethylethyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 11, 0.286 g. 5,6-diamino-3,3-dimethylindolin-2-one and 0.18 g. pivalic acid are heated with 3 g. polyphosphoric acid in a pre-heated bath for 30 minutes at 200° C. A further 0.18 g. pivalic acid are then added thereto and further heated for 30 minutes at 200° C. This procedure is repeated three times so that, in all, 0.9 g. pivalic acid are used with a total reaction time of 2.5 hours. After cooling, the mixture is dissolved in about 9 ml. water and adjusted to about pH 7 to 8 with concentrated aqueous ammonia solution. The precipitate obtained is filtered off with suction and washed with water to give 0.28 g. of the title compound; m.p. >300° C. For further purification, it is dissolved in a little hot ethanol, the turbid solution is treated with charcoal, the hot clear filtrate is evaporated in a vacuum and the evaporation residue is triturated with diethyl ether. One mole of the title compound thus obtained contains 1 mole of water; m.p. >300° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | pivalic acid | C(C(C)(C)C)(=O)O | C5H10O2
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 2-(1,1-Dimethylethyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC(C)(C)C=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C15H19N3O
